US04113742
Preparation of 3,4,6-triphenyl 3,4,5,6-tetrahydro 2-pyrone.
20.8 g (0.1 mol) of chalcone (1,3-diphenyl 1-propenone) are dissolved hot in 12.0 g (0.102 mol) of benzyl cyanide. 60 ml of hexane-absolute alcohol mixture (20-80) are added; the reaction medium is cooled to 0° C. in an ice-salt mixture. The catalyst (8 ml of 2N ethanol KOH) is then added slowly. Crystallisation intervenes very quickly in the vessel, about 1 hour after the beginning of pouring which lasts 3/4 of an hour. The vessel is then placed in the refrigerator for the night.

reactant | chalcone | 0.1 mol, 20.8 g | C1(=CC=CC=C1)C=CC(=O)C1=CC=CC=C1 | C15H12O
reactant | benzyl cyanide | 0.102 mol, 12.0 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | ethanol KOH | 2N, 8 ml | C(C)O.[OH-].[K+]
solvent | hexane | 60 ml | CCCCCC | C6H14
product | 3,4,6-triphenyl 3,4,5,6-tetrahydro 2-pyrone | C1(=CC=CC=C1)C1C(OC(CC1C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H20O2
